US09301951B2
Intermediate 59b: 6-((1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide
Into a 50-mL round-bottom flask, was placed a solution of tert-butyl 4-((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)-1,4-diazepane-1-carboxylate (150 mg, 0.18 mmol, 1.00 equiv, 95%) in dichloromethane (5 mL), and trifluoroacetic acid (1 mL). The resulting solution was stirred overnight at room temperature. The resulting solution was diluted with 50 mL of dichloromethane. The solution was adjusted to pH 9 with aqueous sodium bicarbonate. The resulting solution was extracted with 3×50 mL of dichloromethane and the organic layers combined, dried over anhydrous sodium sulfate, and concentrated under vacuum. The product was obtained as 120 mg (97%) of a yellow solid.

reactant | tert-butyl 4-((6-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenylcarbamoyl)pyridin-2-yl)methyl)-1,4-diazepane-1-carboxylate | 0.18 mmol, 150 mg, 1.00 equiv | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C1=CC=CC(=N1)CN1CCN(CCC1)C(=O)OC(C)(C)C)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C42H48F3N7O4
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 6-((1,4-diazepan-1-yl)methyl)-N-(4-(piperidin-1-yl)-2-(4-(3-(trifluoromethyl)benzylcarbamoyl)pyridin-2-yl)phenyl)picolinamide | 120 mg, 97% | N1(CCNCCC1)CC1=CC=CC(=N1)C(=O)NC1=C(C=C(C=C1)N1CCCCC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O | C37H40F3N7O2
